US07691850B2
g) 6-(hydroxymethyl)-4-mercapto-3-pyridinol
{4-[(1,1-dimethylethyl)thio]-5-hydroxy-2-pyridinyl}methyl acetate (2.5 g, 9.8 mmol) was dissolved in concentrated HCl and the mixture was heated at 80° C. for 18 hours. The solvent was evaporated under vacuum and the residue was triturated with diethyl ether to afford the product as a solid (1.35 g, 88%); MS (+ve ion electrospray) m/z 158 (MH+).

reactant | {4-[(1,1-dimethylethyl)thio]-5-hydroxy-2-pyridinyl}methyl acetate | 9.8 mmol, 2.5 g | C(C)(=O)OCC1=NC=C(C(=C1)SC(C)(C)C)O | C12H17NO3S
solvent | HCl | Cl | ClH
product | 6-(hydroxymethyl)-4-mercapto-3-pyridinol | 1.35 g, 88% | OCC1=CC(=C(C=N1)O)S | C6H7NO2S
